US05391743
VIII. Synthesis of Dihydro-2-pyrindine-7-carboxylic acid, methyl ester
A hydrogenation bottle is charged with 2-pyrindine-7-carboxylic acid, methyl ester (0.8 g, 4.57 mmol), 5% Pd on carbon (2.0 g, wet) and methanol (125 ml). The slurry is hydrogenated (40 psi) until hydrogen uptake stops. The reaction mixture is filtered through celite and then evaporated to dryness to provide the product (430 mg) in 53% yield.

reactant | 2-pyrindine-7-carboxylic acid, methyl ester | 4.57 mmol, 0.8 g | C=1NC=CC2=CC=C(C12)C(=O)OC | C10H9NO2
reactant | hydrogen | [H][H] | H2
catalyst | Pd on carbon | 2.0 g | [Pd] | Pd
solvent | methanol | 125 ml | CO | CH4O
product | Dihydro-2-pyrindine-7-carboxylic acid, methyl ester | 430 mg, 53% yield | C1NCC=C2C=CC(=C12)C(=O)OC | C10H11NO2
